US07342032B2
Part A: Gaseous NH3 is led through a stirred solution of ethyl 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate (1.65 gram, 4.0 mmol) in methanol (25 mL) at room temperature. A small piece of sodium metal is added. After stirring the resulting mixture for three hours the precipitate is collected by filtration, washed with a small portion of methanol and dried to give 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxamide (1.16 gram, 76% yield), melting point 195-198° C. 1H-NMR (200 MHz, CDCl3): δ 7.48 (br s, 1H), 7.22-7.35 (m, 4H), 7.05-7.20 (m, 3H) 5.55-5.65 (M, 1H).

reactant | NH3 | N | H3N
reactant | ethyl 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate | 4.0 mmol, 1.65 gram | ClC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C18H12Cl3NO2S
reactant | sodium | [Na] | Na
solvent | methanol | 25 mL | CO | CH4O
product | 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxamide | 1.16 gram, 76% yield | ClC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C16H9Cl3N2OS
